US04080330
A solution of 2.0 g of diketene in 10 ml of dry benzene was added dropwise at 10°-15° C to a solution of 3.84 g of 3-phenylindolin in 35 ml of dry benzene. The solution was then stirred at room temperature for 90 minutes and the volatile components were removed in vacuo. The residue was recrystallized from ether to give 4.2 g of N-acetoacetyl-3-phenylindoline. A further recrystallization from ethanol gave a purer product having a melting point of 88°-9° C.

reactant | diketene | 2.0 g | C=C1CC(=O)O1 | C4H4O2
reactant | 3-phenylindolin | 3.84 g | C1(=CC=CC=C1)C1CNC2=CC=CC=C12 | C14H13N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 35 ml | C1=CC=CC=C1 | C6H6
product | N-acetoacetyl-3-phenylindoline | 4.2 g | C(CC(=O)C)(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C18H17NO2
